US04283221
A solution of 24.2 (0.2 mole) of 2,6-dimethylaniline and 17.8 g (0.24 mole) of methoxy-acetaldehyde in 150 ml of benzene is treated with 1 ml of 25% trimethylamine solution in methanol and the mixture is refluxed for 5 hours using a steam trap. The reaction mixture is evaporated in vacuo and vacuum distillation of the residue yields the 1-(2'-methoxy-ethylidene-amino)-2,6-dimethylbenzene with a boiling point of 58°-61° C. at 0.1 Torr.

reactant | 2,6-dimethylaniline | CC1=C(N)C(=CC=C1)C | C8H11N
reactant | methoxy-acetaldehyde | 0.24 mole, 17.8 g | COCC=O | C3H6O2
reactant | trimethylamine | 1 ml | CN(C)C | C3H9N
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
solvent | methanol | CO | CH4O
product | 1-(2'-methoxy-ethylidene-amino)-2,6-dimethylbenzene | COCC=NC1=C(C=CC=C1C)C | C11H15NO
